US07737149B2
2-Chloropyrimidine 5-carboxylic acid (100 mg, 0.631 mmol, 1 eq) was suspended in a mixture of toluene (3 ml) and methanol (0.8 ml) under nitrogen and cooled in an ice-bath. Trimethylsilyldiazomethane (2M solution in hexanes, 0.347 ml, 0.694 mmol, 1.1 eq) was added dropwise. The solution was stirred at 0° C. for 10 min, then allowed to warm to room temperature and stirred for a further 1 h. 1-Methylpiperazine (70 μl, 0.631 mmol, 1 eq) and triethylamine (88 μl, 0.631 mmol, 1 eq) were added dropwise and stirring continued at room temperature for 2 h. The solvent was evaporated and the residue was taken up in ethyl acetate (20 ml) and water (15 ml). The layers were separated and the aqueous extracted with further portions of ethyl acetate (2×10 ml). The combined extracts were dried over MgSO4, filtered and evaporated. The reaction was repeated as above and the extracts combined with those above to afford methyl 2-(4-methylpiperazin-1-yl)pyrimidine-5-carboxylate as a gummy yellow solid (76 mg, 25% yield).

reactant | 2-Chloropyrimidine 5-carboxylic acid | 0.631 mmol, 100 mg, 1 eq | ClC1=NC=C(C=N1)C(=O)O | C5H3ClN2O2
reactant | Trimethylsilyldiazomethane | 0.694 mmol, 2M, 0.347 ml, 1.1 eq | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 1-Methylpiperazine | 0.631 mmol, 70 μl, 1 eq | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 0.631 mmol, 88 μl, 1 eq | C(C)N(CC)CC | C6H15N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 0.8 ml | CO | CH4O
product | methyl 2-(4-methylpiperazin-1-yl)pyrimidine-5-carboxylate | 76 mg, 25% yield | CN1CCN(CC1)C1=NC=C(C=N1)C(=O)OC | C11H16N4O2
